US07534797B2
7-Chloro-4-methyl-2-phenylquinoline
Acetophenone (0.66 mL, 5.69 mmol) was added to 1-(2-amino-4-chlorophenyl)ethanone (0.868 g, 5.69 mmol) and [Hbim]BF4 (1.50 g, 7.08 mmol) under Ar. The reaction mixture was heated at 100° C. for 57 h then cooled to rt and partitioned between EtOAc and H2O. The aq layer was extracted with EtOAc. The combined organics were dried (Na2SO4) and concentrated under reduced pressure. Purification by flash chromatography on SiO2 (70 g, EtOAc in hexanes 0:100→1:40→1:30) afforded a lightly colored oil. The material was dissolved in DCM (100 mL) and stirred with PS-Ts-NHNH2 (2.07 g, 2.87 mmol/g, 5.94 mmol) for 2.5 d at rt and then with MP-carbonate (˜0.25 g, 2.74 mmol/g, 0.68 mmol) for 4 h. The resins were removed by filtration through Celite. The residue and Celite were rinsed with DCM multiple times. The filtrate was concentrated under reduced pressure to provide the title compound as a light yellow oil; 1H NMR (400 MHz, CDCl3) δ 8.18-8.12 (m, 3H), 7.92 (d, J=8.4 Hz, 1H), 7.71 (d, J=0.8 Hz, 1H), 7.54-7.46 (m, 4H), 2.75 (s, 3H); MS (ES+): m/z 254.24 (35) [MH+]; HPLC: tR=3.82 min (OpenLynx, nonpolar—5 min).

reactant | Acetophenone | 5.69 mmol, 0.66 mL | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | 1-(2-amino-4-chlorophenyl)ethanone | 5.69 mmol, 0.868 g | NC1=C(C=CC(=C1)Cl)C(C)=O | C8H8ClNO
reactant | carbonate | 0.68 mmol, ˜0.25 g | C([O-])([O-])=O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 7-Chloro-4-methyl-2-phenylquinoline | ClC1=CC=C2C(=CC(=NC2=C1)C1=CC=CC=C1)C | C16H12ClN
